US09238658B2
To a suspension of methyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-5-carboxylate (80.8 mg, 0.2 mmol, 1 equiv) in dried CH2Cl2 (5 mL) under N2 at room temperature was then slowly added DIBAL-H (1M in CH2Cl2, 1 mL, 1 mmol, 5 equiv). The resulting mixture became a clear solution and was stirred at room temperature for 1 h. The resulting mixture was slowly poured into a vigorously stirred mixture of CH2Cl2/10 wt % sodium tartaric acid (aq.) (10 mL/10 mL). The resulting mixture was stirred for 1 h and the layers were separated. The aqueous layer was extracted with CH2Cl2 (30 mL). The combined organic layer was dried (Na2SO4) and filtered. The solvent was removed by roto-evaporator and the resulting residue purified by column using 90-100% EtOAc/hexane as the eluent to yield 4-(6-fluoroindolin-1-yl)-N-(5-(hydroxymethyl)thiazol-2-yl)piperidine-1-carboxamide.

reactant | methyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-5-carboxylate | 0.2 mmol, 80.8 mg, 1 equiv | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC(=CN1)C(=O)OC | C19H21FN4O3S
reactant | DIBAL-H | 1 mmol, 1M, 1 mL, 5 equiv | CC(C)C[AlH]CC(C)C
reactant | sodium tartaric acid | 10 mL | C(C(O)C(O)C(=O)O)(=O)O.[Na]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-fluoroindolin-1-yl)-N-(5-(hydroxymethyl)thiazol-2-yl)piperidine-1-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC(=CN1)CO | C18H21FN4O2S
